US09216964B2
To a solution of 1-(5-bromo-3,4-dihydroisoquinolin-2(1H)-yl)propan-2-one (962 mg, 3.59 mmol), diethylamino sulfur trifluoride (1.74 g, 10.8 ml) in DCM (12 ml) is added cesium fluoride (151 mg, 1 mmol) in small portions, then a few drops of TFA at room temperature. The mixture is stirred for 18 hours at room temperature. To this solution is added saturated aqueous NaHCO3 to quench the reaction. The aqueous layer is extracted with DCM (50 ml×3). The combined organic layers are washed with water, brine, dried over MgSO4 and concentrated. The residue is purified by silica gel flash chromatography, eluted with 20% ethyl acetate in hexanes to yield 5-Bromo-2-(2,2-difluoropropyl)-1,2,3,4-tetrahydroisoquinoline as a brown oil. LC-MS m/z: 291.1 (M+1).

reactant | 1-(5-bromo-3,4-dihydroisoquinolin-2(1H)-yl)propan-2-one | 3.59 mmol, 962 mg | BrC1=C2CCN(CC2=CC=C1)CC(C)=O | C12H14BrNO
reactant | diethylamino sulfur trifluoride | 10.8 ml, 1.74 g | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | cesium fluoride | 1 mmol, 151 mg | [F-].[Cs+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 12 ml | C(Cl)Cl | CH2Cl2
catalyst | TFA | a few drops | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-Bromo-2-(2,2-difluoropropyl)-1,2,3,4-tetrahydroisoquinoline | BrC1=C2CCN(CC2=CC=C1)CC(C)(F)F | C12H14BrF2N
